US04049653
4,4-Dimethyl-7-(4-p-Fluorophenyl-1-Methylbutyl)-9-[3-(Piperidino)-Propionyloxy]-1,2,3,4-Tetrahydrocyclopenta[c] [1]Benzopyran Hydrochloride
3.12 g. (8.2 mmoles) of 4,4-dimethyl-9-hydroxy-7-(4-p-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c] [1]benzopyran, prepared according to the method of Example 6, 1.77 g. (8.6 mmoles) of dicyclohexylcarbodiimide and 1.65 g. (8.5 mmoles) of β-piperidinopropionic acid hydrochloride (m.p. 216° - 220°, J. Am. Chem. Soc. 73, 3168 (1951) are combined with 125 ml. of methylene chloride and stirred at room temperature for about 20 hours. The reaction mixture is filtered and the methylene chloride removed using a rotary evaporator. The residue is treated with benzene and filtered to remove a small quantity of insoluble material. The benzene is evaporated and the dark, viscous residue is chromatographed using 100 g. of 60 - 100 mesh Florosil activated magnesium silicate and methanol/chloroform graded solvent mixtures. Chromatography yields an oil which is dissolved in ether and treated with a solution of ethereal HCl. The desired compound appears as crystals which are filtered and washed with additional ether to obtain the desired product.

reactant | 4,4-dimethyl-9-hydroxy-7-(4-p-fluorophenyl-1-methylbutyl)-1,2,3,4-tetrahydrocyclopenta [c] [1]benzopyran | 8.2 mmoles | CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCC2=CC=C(C=C2)F)C)O)C | C25H29FO2
reactant | dicyclohexylcarbodiimide | 8.6 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | β-piperidinopropionic acid hydrochloride | 8.5 mmoles | Cl.N1(CCCCC1)CCC(=O)O
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-(4-p-Fluorophenyl-1-Methylbutyl)-9-[3-(Piperidino)-Propionyloxy]-1,2,3,4-Tetrahydrocyclopenta[c] [1]Benzopyran Hydrochloride | Cl.CC1(OC2=C(C3=C1CCC3)C(=CC(=C2)C(CCCC2=CC=C(C=C2)F)C)OC(CCN2CCCCC2)=O)C | InChI=1S/C33H42FNO3.ClH/c1-23(9-7-10-24-13-15-26(34)16-14-24)25-21-29(37-31(36)17-20-35-18-5-4-6-19-35)32-27-11-8-12-28(27)33(2,3)38-30(32)22-25;/h13-16,21-23H,4-12,17-20H2,1-3H3;1H
